US03993662
a. Preparation of N-(4'-nitrophenyl)-tricyclo-[3.2.2.02.4 ]-non-8-ene-6,7-dicarboximide
250 g of tricyclo-[3.2.2.02.4 ]-non-8-ene-6,7-dicarboxylic acid anhydride (prepared from cycloheptatriene and maleic acid anhydride, K. Alder, Ber. 86, 1528-39 (1953)) and 200 g of 4-nitroaniline are refluxed in 1500 ml of glacial acetic acid for 3 hours. The reaction mixture cooled to 60° C is poured into 2000 ml of hot water, whereupon the crude product precipitates. After cooling, the crude product is filtered off, dried, and recrystallised from ethyl acetate; M.P. 210°-212° C.

reactant | tricyclo-[3.2.2.02.4 ]-non-8-ene-6,7-dicarboxylic acid anhydride | 250 g | C12C3CC3C(C3C1C(=O)OC3=O)C=C2 | C11H10O3
reactant | 4-nitroaniline | 200 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | water | 2000 ml | O | H2O
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
product | N-(4'-nitrophenyl)-tricyclo-[3.2.2.02.4 ]-non-8-ene-6,7-dicarboximide | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=O)C2C3C4CC4C(C2C1=O)C=C3 | C17H14N2O4
